US05103006
A. 2-(Butylthio)benzoic acid
A stirred solution of n-bromobutane (12.4 g, 0.09 mole) in 90 mL of ethanol under argon at room temperature was treated with a solution of thiosalicylic acid (13.5 g, 0.09 mole) in 72 mL of 10% sodium hydroxide. After stirring overnight, volatiles were stripped in vacuo and the residue was diluted with water and acidified with concentrated hydrochloric acid to precipitate the product. The crude product was collected and air dried, then dissolved in hot acetonitrile containing 1-2 mL of water. Upon cooling there was obtained 13.7 g of the title A compound, m.p. 96°-101°.

reactant | thiosalicylic acid | 0.09 mole, 13.5 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 90 mL | C(C)O | C2H6O
solvent | sodium hydroxide | 72 mL | [OH-].[Na+]
solvent | water | O | H2O
product | 2-(Butylthio)benzoic acid | C(CCC)SC1=C(C(=O)O)C=CC=C1 | C11H14O2S
